US06770662B2
Using 7.2 g (18 mmol) of 4-(2,3,4-trimethoxy-6-methylbenzoyl)-3-methoxy-5-trifluoromethylpyridine-N-oxide, 7 ml of toluene, 17 ml of dimethylformamide and 10 g (35 mmol) of phosphorus oxybromide, 4.1 g (yield 49%) of 4-(2,3,4-trimethoxy-6-methylbenzoyl)-2-bromo-3-trifluoromethyl-5-methoxypyridine (compound No. 124; m.p. 145-147° C.) was obtained in the same process as in Synthesis Example 9 step (f).

reactant | 4-(2,3,4-trimethoxy-6-methylbenzoyl)-3-methoxy-5-trifluoromethylpyridine-N-oxide | 18 mmol, 7.2 g | COC1=C(C(=O)C2=C(C=[N+](C=C2C(F)(F)F)[O-])OC)C(=CC(=C1OC)OC)C | C18H18F3NO6
reactant | toluene | 7 ml | C1(=CC=CC=C1)C | C7H8
reactant | phosphorus oxybromide | 35 mmol, 10 g | P(=O)(Br)(Br)Br | Br3OP
solvent | dimethylformamide | 17 ml | CN(C=O)C | C3H7NO
product | 4-(2,3,4-trimethoxy-6-methylbenzoyl)-2-bromo-3-trifluoromethyl-5-methoxypyridine | 4.1 g, yield 49% | COC1=C(C(=O)C2=C(C(=NC=C2OC)Br)C(F)(F)F)C(=CC(=C1OC)OC)C | C18H17BrF3NO5
